US07138425B2
c) 2-[4-Methoxy-5-[5-(3-chloro-4-fluorophenyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 15f), from 2-(3-amino-6-methoxyphenyl)-5-(3-chloro-4-fluorophenyl)benzoxazole (60 mg, 0.16 mmol) and 1,2,4-benzenetricarboxylic anhydride (31 mg, 0.16 mmol) the title compound was obtained (75 mg, 86%). 1H NMR (DMSO) δ 13.80(s, 1H), 8.43(d, 1H), 8.32(s, 1H), 8.21(d, 1H), 8.15(s, 1H), 8.10(d, 1H), 7.99(dd, 1H), 7.88(d, 1H), 7.75(m, 3H), 7.53(t, 1H), 7.47(d, 1H), 4.03(s, 3H). MS 542.6 m/z (M+H)+.

reactant | 2-(3-amino-6-methoxyphenyl)-5-(3-chloro-4-fluorophenyl)benzoxazole | 0.16 mmol, 60 mg | NC=1C=C(C(=CC1)OC)C=1OC2=C(N1)C=C(C=C2)C2=CC(=C(C=C2)F)Cl | C20H14ClFN2O2
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.16 mmol, 31 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[4-Methoxy-5-[5-(3-chloro-4-fluorophenyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | COC1=CC=C(C=C1C=1OC2=C(N1)C=C(C=C2)C2=CC(=C(C=C2)F)Cl)N2C(C1=CC=C(C=C1C2=O)C(=O)O)=O | C29H16ClFN2O6
